US06914074B2
1-Chloro-6-(3-fluoro-4-methoxyphenyl)-2-naphthol
The title compound was prepared by reacting 6-(3-fluoro-4-methoxylphenyl)-2-naphthol (1 g, 3.73 mmol) and NCS (748 mg, 5.60 mmol) in THF (35 mL) according to method A to yield 780 mg (69%) of brown solid: mp 137-139° C.; 1H NMR (DMDO-d6): δ 3.89 (3H, s), 7.26-7.33 (2H, m), 7.61 (1H, d, J=8.63 Hz), 7.71 (1H, dd, J=13.08 Hz, J=2.16 Hz), 7.84 (1H, d, J=8.93 Hz), 7.92 (1H, dd, J=8.92 Hz, J=1.80 Hz), 8.06 (1H, d, J=8.86 Hz), 8.19 (1H, d, J=1.55 Hz), 10.52 (1H, s); MS (ESI) m/z301/303(M−H)−.

reactant | 6-(3-fluoro-4-methoxylphenyl)-2-naphthol | 3.73 mmol, 1 g | FC=1C=C(C=CC1OC)C=1C=C2C=CC(=CC2=CC1)O | C17H13FO2
reactant | NCS | 5.60 mmol, 748 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 1-Chloro-6-(3-fluoro-4-methoxyphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC=C12)C1=CC(=C(C=C1)OC)F)O | C17H12ClFO2
